US05405839
A 0.19 g amount of the crude 1-(2-hydroxyethyl)-5,6-dimethylbenzimidazole and 2 ml of 2-cyanoethylphosphoric acid pyridinium salt solution (1 mmol/ml) were dissolved in 20 ml of dry pyridine, and the solution was concentrated to dryness under a reduced pressure. This process was repeated twice more, and further, the dried material was thoroughly dried by a vacuum pump, dissolved in 20 ml of dry pyridine, 1.67 g of dicyclohexylcarbodiimide was added thereto, and the mixture was stored at room temperature for 2 days. After an addition of water to the product, the mixture was concentrated to dryness under a reduced pressure, followed by an addition of 40 ml of an aqueous LiOH solution (0.5 N) to carry out the reaction at 100° C. for 45 minutes. The reaction mixture was filtered to give a filtrate, which was diluted with water, adjusted to a pH of 2.5 to 3, and then the mixture was applied to an ion exchange column (Dowex 50 (hydrogen ion form)). Elution was effected successively with water and 2 N pyridine, and the fractions eluted with the latter were concentrated to dryness under a reduced pressure to give 0.27 g of crude 2-(5,6-dimethylbenzimidazolyl)ethylphosphoric acid.

reactant | 1-(2-hydroxyethyl)-5,6-dimethylbenzimidazole | OCCN1C=NC2=C1C=C(C(=C2)C)C | C11H14N2O
reactant | 2-cyanoethylphosphoric acid pyridinium salt | 1 mmol/ml, 2 ml | [NH+]1=CC=CC=C1.C(#N)CCOP([O-])([O-])=O.[NH+]1=CC=CC=C1
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(5,6-dimethylbenzimidazolyl)ethylphosphoric acid | 0.27 g | CC1=CC2=C(N=C(N2)CCOP(O)(O)=O)C=C1C | C11H15N2O4P
